US07456200B2
4-(4,5-Dimethyl-4H-[1,2,4]triazol-3-yl)-pyridine
860 μl (10 mmol) oxalyl chloride was slowly added to a solution of 731 mg (10 mmol) N-methyl-acetamide and 2.33 ml (20 mmol) 2,6-lutidine in 20 ml CH2Cl2 at 0° C. After 15 min 1.37 g (10 mmol) isonicotinic acid hydrazide was added in one portion. The resulting mixture was stirred at room temperature for 1 h and the neutralized with NaHCO3(sat). The phases were separated and the water phase was extracted with CH2Cl2. The combined organic phases were dried and concentrated. The residue was dissolve in 20 ml acetic acid and heated at 120° C. for 2 h. After cooling the solvent was removed. Flashchromatography (CH2Cl2/MeOH 10:1) afforded 765 mg (44%) of a grey/white solid. 1H NMR (CDCl3), d (ppm): 2.52 (s, 3 H) 3.66 (s, 3 H) 7.58 (d, 2 H) 8.76 (d, 2 H).

reactant | oxalyl chloride | 10 mmol, 860 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methyl-acetamide | 10 mmol, 731 mg | CNC(C)=O | C3H7NO
reactant | 2,6-lutidine | 20 mmol, 2.33 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | isonicotinic acid hydrazide | 10 mmol, 1.37 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(4,5-Dimethyl-4H-[1,2,4]triazol-3-yl)-pyridine | 765 mg, 44% | CN1C(=NN=C1C)C1=CC=NC=C1 | C9H10N4
